US07151105B2
Step 3: 2-[5-(Diethoxymethyl)-1-methyl-1H-1,2,4-triazol-3-yl]-6-methylpyridine
Methyl 2,2-diethoxyethanimidoate (42 g, 0.26 mol) was dissolved in methanol (200 mL), and a solution of compound N′,6-dimethylpyridine-2-carbohydrazonamide (43 g, 0.25 mol) in methanol (200 mL) while cooling with a water bath, followed by the addition of acetic acid (22 mL, 0.37 mol). The mixture was stirred at room temperature for 3 h, and then K2CO3 (10 g, 0.071 mol) was added. The mixture was stirred for 10 min, and then the methanol was evaporated. The residue was stirred with a solution of K2CO3 (20 g) in water (200 mL), and extracted with ether (2×150 mL). The organic layer was washed with water and then saturated NaCl solution, dried over Na2SO4 and evaporated. The residue (62 g) was purified by chromatography on a silica gel column to afford 39.5 g (57%) of the title product.

reactant | Methyl 2,2-diethoxyethanimidoate | 0.26 mol, 42 g | C(C)OC(C(OC)=N)OCC | C7H15NO3
reactant | N′,6-dimethylpyridine-2-carbohydrazonamide | 0.25 mol, 43 g | CNN=C(N)C1=NC(=CC=C1)C | C8H12N4
reactant | acetic acid | 0.37 mol, 22 mL | C(C)(=O)O | C2H4O2
reactant | K2CO3 | 0.071 mol, 10 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methanol | 200 mL | CO | CH4O
solvent | methanol | 200 mL | CO | CH4O
product | 2-[5-(Diethoxymethyl)-1-methyl-1H-1,2,4-triazol-3-yl]-6-methylpyridine | 39.5 g, 57% | C(C)OC(C1=NC(=NN1C)C1=NC(=CC=C1)C)OCC | C14H20N4O2
